US07439244B2
8-(4-(2,2,2-Trifluoroethyl)-piperazin-1-yl)-3-phenylsulfonylquinoline (E8)
A solution of 3-phenylsulfonyl-8-piperazin-1-yl-quinoline (D12) (200 mg, 0.55 mmol) in dry THF (2 ml) was treated with sodium hydride (24 mg, 0.6 mmol, 60% oil dispersion), and 1-bromo-2,2,2-trifluoroethane (815 mg, 5 mmol). The mixture was heated to 100° C. for 4 days then cooled, evaporated and the residue subjected to purification by flash chromatography on silica gel (eluting with dichloromethane-methanol-aq. NH3) to give the free base form of the title compound. This was treated with 1M HCl in ether then crystallised from isopropanol to give the title compound (E8) as a yellow solid:

reactant | 3-phenylsulfonyl-8-piperazin-1-yl-quinoline | 0.55 mmol, 200 mg | C1(=CC=CC=C1)S(=O)(=O)C=1C=NC2=C(C=CC=C2C1)N1CCNCC1 | C19H19N3O2S
reactant | sodium hydride | 0.6 mmol, 24 mg | [H-].[Na+]
reactant | 1-bromo-2,2,2-trifluoroethane | 5 mmol, 815 mg | BrCC(F)(F)F | C2H2BrF3
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 8-(4-(2,2,2-Trifluoroethyl)-piperazin-1-yl)-3-phenylsulfonylquinoline | FC(CN1CCN(CC1)C=1C=CC=C2C=C(C=NC12)S(=O)(=O)C1=CC=CC=C1)(F)F | C21H20F3N3O2S
